US07625886B2
(R)-2-[4-(4-ethoxycarbonylmethyl-piperazin-1-yl)-piperidin-1-yl]-1-(2-methoxy-7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 7i from 150 mg (0.27 mmol) (R)-1-carboxy-2-(2-methoxy-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 85 mg (0.33 mmol) ethyl (4-piperidin-4-yl-piperazin-1-yl)-acetate.

reactant | (R)-1-carboxy-2-(2-methoxy-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.27 mmol, 150 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(=N3)OC)C(=C1)C)C(=O)O)C=CC=C2 | C27H31N5O6
reactant | ethyl (4-piperidin-4-yl-piperazin-1-yl)-acetate | 0.33 mmol, 85 mg | N1CCC(CC1)N1CCN(CC1)CC(=O)OCC | C13H25N3O2
product | (R)-2-[4-(4-ethoxycarbonylmethyl-piperazin-1-yl)-piperidin-1-yl]-1-(2-methoxy-7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)CC(=O)OCC)CC1=CC3=C(NC(=N3)OC)C(=C1)C)C=CC=C2 | C40H54N8O7
